US08685969B2
6. 4-(3-Amino-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide
A solution of benzyl 3-(1-carbamoyl-7-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate (0.2735 g, 0.511 mmol) and 10% Pd/C (0.109 g, 0.102 mmol) in THF (12.8 mL) and MeOH (19.2 mL) was hydrogenated. After 1.5 hr, the reaction was flushed with nitrogen and filtered through a wad of CELITE®. The filtrate was concentrated in vacuo, dissolved in CH2Cl2, dried over MgSO4, and concentrated in vacuo to give the desired product (0.196 g, 0.450 mmol, 88% yield) as a tan solid.

reactant | benzyl 3-(1-carbamoyl-7-morpholino-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.511 mmol, 0.2735 g | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)N2CCOCC2)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C | C31H29N5O4
solvent | THF | 12.8 mL | C1CCOC1 | C4H8O
solvent | MeOH | 19.2 mL | CO | CH4O
catalyst | Pd/C | 0.102 mmol, 0.109 g | [Pd] | Pd
product | 4-(3-Amino-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide | 0.450 mmol, 0.196 g, 88% yield | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)N)C | C23H23N5O2
